US08703826B2
(R)-(−)-2-Benzylaminoheptane [(R)-15].
A sample of 0.65 mL (4.4 mmol) of (R)-(−)-2-aminoheptane (R-44) 0.44 mL (4.4 mmol) of benzaldehyde and 0.1 mL of HOAc were combined in 40 mL of CH2Cl2 and then cooled to 0° C. To the reaction mixture was added 2.75 mg (13 mmol) of sodium triacetoxyborohydride in one portion, which was stirred under argon at room temperature for 28 hours. The reaction mixture was diluted with 30 mL of CH2Cl2, cooled in an ice bath and 80 mL of 5% NaOH (in water) was added. Fractions were separated, organics (Na2SO4) dried and evaporated to 638 mg (71%) of (R)-15. 1H NMR (CDCl3) δ 0.88 (m, 3H), 1.08 (d, 3H J=6.6 Hz), 1.20-1.39 (m, 6H), 1.41-1.67 (m, 2H), 3.62-3.77 (m, 1H), 3.75 (p, 2H, J=12 Hz), 7.17-7.41 (m, 5H); MS (APCI+) m/z (rel): 206 (100); [α]D=+6.9° (c=1.0, MeOH).

reactant | (R)-(−)-2-aminoheptane | 4.4 mmol, 0.65 mL | N[C@H](C)CCCCC | C7H17N
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 13 mmol, 2.75 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 80 mL | [OH-].[Na+]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | HOAc | 0.1 mL | CC(=O)O | C2H4O2
product | (R)-(−)-2-Benzylaminoheptane | C(C1=CC=CC=C1)N[C@H](C)CCCCC | C14H23N
